US04918074
To 50 ml of ethanol are added 7.8 g of ethyl α-acetylcrotonate and 4.2 g of 3-amino-1,2,4-triazole, stirred at 50° C. for an hour and then heated under reflux for an hour. The ethanol is evaporated under reduced pressure, and the obtained crystals are recrystallized from ethanol to give 7 g of 6-ethoxycarbonyl-5,7-dimethyl-4,7-dihydro-1,2,4-triazolo[1,5-a]pyrimidine, melting at 155°-157° C.

reactant | ethyl α-acetylcrotonate | 7.8 g | C(C)(=O)/C(/C(=O)OCC)=C\C | C8H12O3
reactant | 3-amino-1,2,4-triazole | 4.2 g | NC1=NNC=N1 | C2H4N4
solvent | ethanol | 50 ml | C(C)O | C2H6O
product | 6-ethoxycarbonyl-5,7-dimethyl-4,7-dihydro-1,2,4-triazolo[1,5-a]pyrimidine | 7 g | C(C)OC(=O)C1=C(NC=2N(C1C)N=CN2)C | C10H14N4O2
